US07851473B2
4-[3-(4-Aminopiperidin-1-yl)-1,2,4-thiadiazol-5-yl]-N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide dihydrochloride
To a solution of tert-butyl [1-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperidin-4-yl]carbamate (200 mg, 0.378 mmol) in tetrahydrofuran (10 ml) and methanol (10 ml) was added a solution of 4 N hydrogen chloride in ethyl acetate (10 ml), and the mixture was stirred at room temperature for 5 hours. The solvent was distilled off under reduced pressure, and the residue was recrystallized from a mixed solvent of methanol and diethyl ether to give 181 mg (95.5%) of the desired product as a solid.

reactant | tert-butyl [1-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperidin-4-yl]carbamate | 0.378 mmol, 200 mg | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)N2CCC(CC2)NC(OC(C)(C)C)=O | C24H32N8O4S
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 4-[3-(4-Aminopiperidin-1-yl)-1,2,4-thiadiazol-5-yl]-N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide dihydrochloride | 181 mg, 95.5% | Cl.Cl.NC1CCN(CC1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC1=NOC2=C1C=CC=C2 | InChI=1S/C19H24N8O2S.2ClH/c20-13-5-7-25(8-6-13)17-22-19(30-24-17)27-11-9-26(10-12-27)18(28)21-16-14-3-1-2-4-15(14)29-23-16;;/h1-4,13H,5-12,20H2,(H,21,23,28);2*1H
